US04272536
Preparation of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-piperidinoacetamide hydrochloride
To a solution of 1.50 g (6.2 millimoles) of N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide and 0.53 g (6.2 millimoles) of piperidine in 50 ml of ethanol was added 10 ml of an aqueous solution containing 0.52 g (6.2 millimoles) of sodium hydrogencarbonate and 0.10 g (0.62 millimole) of potassium iodide, and the mixture was refluxed, under agitation, for 10 hours. The post treatment was carried out in the same manner as described in section (B) of Example 1 to obtain 1.63 g (the yield being 81%) of the intended compound having a melting point of 174° to 176° C. (recrystallized from methanolacetone).

reactant | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide | 6.2 millimoles, 1.50 g | C12(C3CCC(C(CCC1)C2)C3)NC(CCl)=O | C13H20ClNO
reactant | piperidine | 6.2 millimoles, 0.53 g | N1CCCCC1 | C5H11N
reactant | sodium hydrogencarbonate | 6.2 millimoles, 0.52 g | C(O)([O-])=O.[Na+]
reactant | potassium iodide | 0.62 millimole, 0.10 g | [I-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-piperidinoacetamide hydrochloride | Cl.C12(C3CCC(C(CCC1)C2)C3)NC(CN3CCCCC3)=O | InChI=1S/C18H30N2O.ClH/c21-17(13-20-9-2-1-3-10-20)19-18-8-4-5-15(12-18)14-6-7-16(18)11-14;/h14-16H,1-13H2,(H,19,21);1H
